US04337252
Condensation 13.6 g (0.1 mole) of p-methoxybenzaldehyde is dissolved in 14.3 g (0.1 mole) of morpholinoacetone and this solution is added dropwise to 100 cm3 of a solution of 1 N sodium hydroxide cooled in an ice-containing water bath. The temperature is allowed to return to ambient temperature while stirring for 5 hours. The precipitate obtained is filtered and rinsed several times with water. 18.8 g of 1-(p-methoxyphenyl)-4-morpholino-1-buten-3-one is obtained.

reactant | p-methoxybenzaldehyde | 0.1 mole, 13.6 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | morpholinoacetone | 0.1 mole, 14.3 g | O1CCN(CC1)CC(C)=O | C7H13NO2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | 1-(p-methoxyphenyl)-4-morpholino-1-buten-3-one | 18.8 g, yield=72% | COC1=CC=C(C=C1)C=CC(CN1CCOCC1)=O | C15H19NO3
